US06177440B1
C. Preparation of [5-carbamoyl-1-chlorocarbazol-4-yl]oxyacetic acid methyl ester
A solution of 0.28 g of 5-carbamoyl-4-hydroxy-1-chlorocarbazole in 6 ml of tetrahydrofuran was added to 0.043 g of sodium hydride (60% in mineral oil) in 1 ml of tetrahydrofuran and stirred for 60 minutes at room temperature. Methyl bromoacetate (0.11 ml) was then added and the reaction was stirred overnight. The reaction mixture was poured into 20 ml of saturated ammonium chloride solution and then extracted twice with ethyl acetate. The extracts were washed with water and then with brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel eluting with chloroform and then 2:1 chloroform/ethyl acetate to afford 0.16 g (45%) of the subtitle compound. ESIMS m/e 333 (M++1), 335 (M++3), 331 (M+−1) NMR (300 MHz, d6-DMSO): δ 11.73 (s, 1H); 7.56 (d, J=8.1, 1H); 7.50 (br s, 1H); 7.43-7.35 (m, 2H); 7.18 (br s, 1H); 7.06 (d, J=7.8, 1H); 6.56 (d, J=8.6, 1H); 4.90 (s, 2H); 3.70 (s, 3H).

reactant | 5-carbamoyl-4-hydroxy-1-chlorocarbazole | 0.28 g | C(N)(=O)C1=C2C=3C(=CC=C(C3NC2=CC=C1)Cl)O | C13H9ClN2O2
reactant | sodium hydride | 0.043 g | [H-].[Na+]
reactant | Methyl bromoacetate | 0.11 ml | BrCC(=O)OC | C3H5BrO2
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | [5-carbamoyl-1-chlorocarbazol-4-yl]oxyacetic acid methyl ester | 0.16 g, 45% | COC(COC1=CC=C(C=2NC3=CC=CC(=C3C12)C(N)=O)Cl)=O | C16H13ClN2O4
